US05763437
To a solution of (3RS)-3-acetoxy-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one (2.00 g) in N,N-dimethylformamide (15 ml) was added potassium phthalimide (1.85 g) under stirring and heated at 60° C. To the mixture was added sodium iodide (12.64 g) and stirred for 3 hours at 100° C. The hot resultant mixture was poured into ice-water to give a crude product. The precipitated crude product was collected by filtration. Dryness under the reduced pressure at 40° C. gave (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1H-1,4-benzodiazepin-2-one (1.80 g) as an yellow powder, which was used in a following reaction step without further purification.

reactant | (3RS)-3-acetoxy-5-cyclohexyl-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 2.00 g | C(C)(=O)OC1C(NC2=C(C(=N1)C1CCCCC1)C=CC=C2)=O | C17H20N2O3
reactant | potassium phthalimide | 1.85 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | sodium iodide | 12.64 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1H-1,4-benzodiazepin-2-one | 1.80 g | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H21N3O3
